US07470664B2
To solid 4-chloro-1H-isoindole-1,3(2H)-dione (4.0 g, 22.0 mmol) was added borane-THF complex (1 M/THF, 88.1 mL, 88.1 mmol) dropwise with stirring. When the addition was complete, the reaction mixture was heated to reflux (80 ° C.) and stirred for 6 h. The reaction mixture was then cooled to 0° C., methanol (2.8 mL, 88.1 mmol) was carefully added dropwise and the reaction mixture was warmed to room temperature. HCl (6 N) was added until the mixture was acidic and then the mixture was concentrated. The crude product was dissolved in 1 M HCl and extracted twice with ethyl ether and twice with dichloromethane. The pH of the aqueous layer was adjusted to pH=11 with solid NaOH and extracted three times with ethyl acetate. The combined ethyl acetate extracts were dried over Na2SO4, filtered and concentrated to give 4-chloroisoindoline (1.8 g, 53% yield). LRMS (ESI) m/z 154 [(M+H)+; calcd for C8H9ClN: 154].

reactant | 4-chloro-1H-isoindole-1,3(2H)-dione | 22.0 mmol, 4.0 g | ClC1=C2C(NC(C2=CC=C1)=O)=O | C8H4ClNO2
reactant | borane THF | 88.1 mmol, 1 M, 88.1 mL | B.C1CCOC1
reactant | methanol | 88.1 mmol, 2.8 mL | CO | CH4O
reactant | HCl | 6 N | Cl | ClH
product | 4-chloroisoindoline | 1.8 g, 53% yield | ClC1=C2CNCC2=CC=C1 | C8H8ClN
